US07211672B2
(±)-Cis-N-[2-methyl-1-(pyridine-3-carbonyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide (A-47)
(±)-Cis-[2-ethyl-1-(pyridine-3-carbonyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide was made following general procedure A substituting 3-pyridinyl chloride for 2-furoyl chloride and propionyl chloride for acetyl chloride.

reactant | (±)-Cis-[2-ethyl-1-(pyridine-3-carbonyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide | C(C)[C@@H]1N(C2=CC=CC=C2[C@@H](C1)C(C(=O)NC1=CC=CC=C1)C)C(=O)C=1C=NC=CC1 | C26H27N3O2
reactant | 3-pyridinyl chloride | N1=CC(=CC=C1)Cl | C5H4ClN
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | (±)-Cis-N-[2-methyl-1-(pyridine-3-carbonyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide | C[C@@H]1N(C2=CC=CC=C2[C@@H](C1)N(C(CC)=O)C1=CC=CC=C1)C(=O)C=1C=NC=CC1 | C25H25N3O2
